US07696193B2
Step 1: 3-Cyclobutyl-7-{[4-(1H-imidazol-1-yl)-4-oxobutyl]oxy}-2,3,4,5-tetrahydro-1H-3-benzazepine
4-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]butanoic acid (E167b) (0.90 g, 2.8 mmol) was dissolved in dimethylformamide (10 ml) and treated with 1,1′-carbonyl diimidazole (0.59 g, 3.6 mmol). After stirring at room temperature for 2.5 hours, the reaction mixture concentrated in vacuo. The crude residue was dissolved in dichloromethane, washed with brine and dried (sodium sulfate). The organic layer was filtered and concentrated in vacuo and the crude residue used directly in the next step without further purification.

reactant | 4-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]butanoic acid | 2.8 mmol, 0.90 g | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OCCCC(=O)O | C18H25NO3
reactant | 1,1′-carbonyl diimidazole | 3.6 mmol, 0.59 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-Cyclobutyl-7-{[4-(1H-imidazol-1-yl)-4-oxobutyl]oxy}-2,3,4,5-tetrahydro-1H-3-benzazepine | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OCCCC(=O)N2C=NC=C2 | C21H27N3O2
